US08912169B2
Step 2: Synthesis of [tert-Butoxycarbonyl-(4-tert-butoxycarbonylamino-cyclohexyl)-amino]-acetic acid benzyl ester
Prepared from (4-tert-Butoxycarbonylamino-cyclohexylamino)-acetic acid benzyl ester and di-tert-butyl dicarbonate following the procedure described in Step 3 of Example 43. The crude product was purified by flash chromatography on silica gel (0-50% EtOAc:Hexane). ESI-MS m/z 463 (MH)+.

reactant | (4-tert-Butoxycarbonylamino-cyclohexylamino)-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CNC1CCC(CC1)NC(=O)OC(C)(C)C)=O | C20H30N2O4
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | [tert-Butoxycarbonyl-(4-tert-butoxycarbonylamino-cyclohexyl)-amino]-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CN(C1CCC(CC1)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C25H38N2O6
